* File: MU4IX1.pex.netlist.pex
* Created: Mon Jun  5 13:06:30 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MU4IX1%D_VDD 1 4 8 12 18 24 28 45 46 47 48 49
c58 49 0 0.142428f
c59 48 0 0.167727f
c60 47 0 0.159138f
c61 46 0 0.190309f
c62 45 0 0.234053f
c63 39 0 0.0701213f
c64 37 0 0.0701213f
c65 30 0 0.208645f
c66 28 0 0.430292f
c67 24 0 0.912749f
c68 18 0 0.648581f
c69 12 0 0.556973f
c70 8 0 0.292876f
c71 4 0 0.521346f
c72 1 0 0.0701213f
r73 62 72 0.0526245
r74 49 72 0.00407088
r75 49 62 0.085
r76 38 48 0.146389
r77 38 39 0.0120155
r78 36 47 0.17
r79 36 37 0.0120155
r80 33 46 0.17
r81 30 45 0.17
r82 24 72 0.0888703
r83 19 39 0.0329425
r84 18 49 0.0549463
r85 13 37 0.0329425
r86 12 39 0.0329425
r87 8 37 0.0329425
r88 1 49 0.00271392
r89 1 49 0.0705619
r90 1 33 0.0120155
r91 1 4 0.0329425
r92 1 9 0.0329425
r93 1 30 0.0245326
r94 1 5 0.0231307
r95 1 28 0.08075
r96 1 24 0.10625
r97 1 18 0.14875
r98 1 19 0.1445
r99 1 12 0.051
r100 1 13 0.15725
r101 1 8 0.17425
r102 1 9 0.08075
r103 1 4 0.25075
r104 1 5 0.19975
.ends

.subckt PM_MU4IX1%D_GND 1 8 9 10 11 12 13 39 42 45 48 51 71
c71 71 0 0.395402f
c72 51 0 0.542184f
c73 49 0 0.0701213f
c74 48 0 0.301425f
c75 46 0 0.0701213f
c76 45 0 0.562261f
c77 43 0 0.0701213f
c78 42 0 0.634401f
c79 40 0 0.0701213f
c80 39 0 0.304705f
c81 14 0 0.184835f
c82 13 0 0.171667f
c83 12 0 0.148042f
c84 11 0 0.163359f
c85 10 0 0.168203f
c86 9 0 0.163253f
c87 8 0 0.202324f
c88 1 0 0.0701213f
r89 48 49 0.0329425
r90 47 49 0.0329425
r91 45 46 0.0329425
r92 44 46 0.0329425
r93 42 43 0.0329425
r94 41 43 0.0329425
r95 39 40 0.0329425
r96 38 40 0.0329425
r97 34 49 0.0120155
r98 30 46 0.0120155
r99 26 43 0.0120155
r100 22 40 0.0120155
r101 13 34 0.146389
r102 12 30 0.146389
r103 11 26 0.146389
r104 10 22 0.146389
r105 9 18 0.146389
r106 8 14 0.146389
r107 1 18 0.0120155
r108 1 51 0.0329425
r109 1 55 0.0329425
r110 1 14 0.024626
r111 1 52 0.0230372
r112 1 71 0.0085
r113 1 47 0.07225
r114 1 48 0.12325
r115 1 44 0.14875
r116 1 45 0.04675
r117 1 41 0.16575
r118 1 42 0.16575
r119 1 38 0.12325
r120 1 39 0.20825
r121 1 55 0.06375
r122 1 51 0.26775
r123 1 52 0.21675
.ends

.subckt PM_MU4IX1%O0 2 5 7 9 12 15 17 18 20 24 26 27 38 40 42 44 47 52 54 57 60
+ 66
c154 66 0 0.0256799f
c155 60 0 0.159928f
c156 57 0 0.0788384f
c157 54 0 0.0439208f
c158 52 0 0.0282093f
c159 47 0 0.0216421f
c160 44 0 0.0227594f
c161 42 0 0.0233933f
c162 38 0 0.0465966f
c163 27 0 0.0938874f
c164 26 0 0.0963201f
c165 24 0 0.00710969f
c166 20 0 0.102616f
c167 18 0 0.0902339f
c168 17 0 0.221403f
c169 15 0 0.191389f
c170 12 0 0.312815f
c171 9 0 0.42943f
c172 7 0 0.351104f
c173 5 0 1.01905f
c174 2 0 0.0759925f
r175 57 66 0.0566888
r176 52 54 0.0519666
r177 52 53 7
r178 50 54 0.2975
r179 47 50 0.0519666
r180 47 48 7
r181 43 60 15.2843
r182 42 44 0.0519666
r183 42 43 7
r184 36 38 0.0566667
r185 29 44 0.085
r186 28 40 0.00935391
r187 27 29 0.0474919
r188 27 28 0.325833
r189 26 38 0.00499195
r190 25 40 0.0359928
r191 25 26 0.8925
r192 24 40 0.0359928
r193 23 35 0.0172428
r194 23 24 0.085
r195 21 36 0.00499195
r196 21 66 0.1275
r197 19 20 18.7188
r198 17 18 16.6389
r199 17 60 75
r200 15 19 37.5
r201 12 48 6.98411
r202 12 20 62.5
r203 7 53 27.6316
r204 7 9 108.333
r205 5 48 6.98411
r206 5 18 375
r207 2 35 0.0579306
.ends

.subckt PM_MU4IX1%clk0 2 5 8 13 19 23 27 30 32 33 34 36 38 39 44 48 49 53 56 59
+ 64 67 69 72 73 74 77 81 86 87 95 97
c196 97 0 0.0816751f
c197 95 0 0.783079f
c198 87 0 0.132209f
c199 86 0 0.430931f
c200 81 0 0.282396f
c201 74 0 0.0392606f
c202 73 0 0.150898f
c203 72 0 0.0293004f
c204 69 0 0.0563027f
c205 67 0 0.225794f
c206 64 0 0.286145f
c207 59 0 0.0874797f
c208 56 0 0.0598712f
c209 53 0 0.0418409f
c210 49 0 0.158262f
c211 48 0 0.0257191f
c212 44 0 0.0616551f
c213 39 0 0.133996f
c214 38 0 0.122442f
c215 36 0 0.078445f
c216 34 0 0.037001f
c217 33 0 0.057263f
c218 32 0 0.0907544f
c219 30 0 0.0513908f
c220 27 0 0.16529f
c221 23 0 0.275304f
c222 19 0 0.377229f
c223 13 0 0.179738f
c224 8 0 0.205939f
c225 5 0 0.385438f
r226 87 95 312.5
r227 81 86 162.5
r228 80 81 12.215
r229 77 97 0.0221354
r230 73 95 15.2843
r231 72 74 0.0519666
r232 72 73 7
r233 67 90 20.8333
r234 66 69 0.0519444
r235 66 67 7
r236 64 89 46.3599
r237 63 64 7
r238 56 58 0.0991667
r239 54 87 15.2843
r240 54 86 15.2843
r241 53 55 0.0175137
r242 53 54 7
r243 51 53 0.157624
r244 49 84 15.2843
r245 48 49 7
r246 45 80 20.6522
r247 44 45 7
r248 41 69 0.0216719
r249 41 74 0.255
r250 40 56 0.00499195
r251 39 63 0.168543
r252 39 40 0.155833
r253 38 55 0.0130406
r254 37 59 0.019112
r255 37 38 0.4675
r256 36 97 0.024295
r257 35 58 0.0425
r258 35 36 0.162917
r259 33 58 0.00499195
r260 33 34 0.113333
r261 32 34 0.0474919
r262 31 51 0.0130406
r263 31 32 0.432083
r264 30 48 0.0519666
r265 29 44 0.0519666
r266 29 30 0.332917
r267 25 27 37.5
r268 21 90 6.3741
r269 21 23 62.5
r270 17 89 3.83547
r271 17 19 108.333
r272 11 27 1.46822
r273 11 13 37.5
r274 8 80 9.32053
r275 7 25 1.46822
r276 7 8 77.0833
r277 5 84 108.333
r278 2 59 0.0352071
.ends

.subckt PM_MU4IX1%O1 2 3 5 9 13 15 16 20 22 23 29 31 32 33 35 36 37 39 41 45 49
+ 52 56 59
c152 59 0 0.153707f
c153 56 0 0.0902348f
c154 52 0 0.0593016f
c155 49 0 0.046427f
c156 45 0 0.0865624f
c157 41 0 0.0461047f
c158 39 0 0.0798348f
c159 37 0 0.0033859f
c160 36 0 0.0570522f
c161 35 0 0.0514268f
c162 33 0 0.0475163f
c163 32 0 0.0989402f
c164 31 0 0.0693059f
c165 29 0 0.159428f
c166 23 0 0.165323f
c167 22 0 0.218043f
c168 20 0 0.217752f
c169 16 0 0.062273f
c170 15 0 0.146843f
c171 13 0 0.19127f
c172 9 0 0.330985f
c173 5 0 0.707765f
c174 3 0 0.19868f
r175 56 62 0.0221354
r176 53 59 15.2843
r177 52 54 0.119
r178 52 53 7
r179 47 49 0.0991667
r180 41 52 0.0546447
r181 40 49 0.00499195
r182 40 41 0.2975
r183 39 47 0.00499195
r184 38 45 0.0216719
r185 38 39 0.34
r186 36 54 0.0142585
r187 36 37 0.1275
r188 35 62 0.024295
r189 34 37 0.0474919
r190 34 35 0.2975
r191 31 32 16.6389
r192 27 29 29.1667
r193 23 25 37.5
r194 21 33 10.5861
r195 21 22 87.5
r196 20 33 10.5861
r197 20 32 87.5
r198 17 29 1.46822
r199 17 31 25
r200 15 22 13.9682
r201 15 16 29.1667
r202 11 27 1.46822
r203 11 13 37.5
r204 7 16 13.9682
r205 7 9 83.3333
r206 6 23 1.46822
r207 5 33 2.75115
r208 5 6 262.5
r209 3 25 1.46822
r210 3 59 75
r211 2 45 0.0425
.ends

.subckt PM_MU4IX1%N$69 2 3 7 11 14 17 21 25 26 27 30 31 39 44 46 49 52 56
c109 56 0 0.166845f
c110 52 0 0.155468f
c111 46 0 0.0642554f
c112 44 0 0.025875f
c113 39 0 0.0202988f
c114 31 0 0.0212482f
c115 30 0 0.104694f
c116 27 0 0.047992f
c117 26 0 0.0517237f
c118 25 0 0.058296f
c119 21 0 0.0443172f
c120 19 0 0.0512656f
c121 17 0 0.156287f
c122 14 0 0.587613f
c123 11 0 0.420809f
c124 7 0 0.254863f
c125 3 0 0.251219f
c126 2 0 0.0678938f
r127 49 56 0.010625
r128 45 52 15.2843
r129 44 46 0.0519666
r130 44 45 7
r131 39 41 0.0920833
r132 32 34 0.155833
r133 30 31 0.0728571
r134 29 41 0.00499195
r135 29 46 0.262083
r136 27 34 0.0425
r137 26 39 0.00499195
r138 26 27 0.347083
r139 25 34 0.00499195
r140 25 38 0.17
r141 22 32 0.00499195
r142 22 30 0.687083
r143 21 56 0.0334507
r144 21 31 0.247917
r145 15 17 20.8333
r146 14 17 1.46822
r147 13 19 10.5861
r148 13 14 202.083
r149 9 19 10.5861
r150 9 11 114.583
r151 5 15 1.46822
r152 5 7 54.1667
r153 3 19 2.75115
r154 3 52 79.1667
r155 2 38 0.0519666
.ends

.subckt PM_MU4IX1%clk1 2 5 8 9 11 13 15 16 18 21 23 24 25 26 27 29 31 35 39 48
+ 49 54
c112 54 0 0.0747018f
c113 49 0 0.295494f
c114 39 0 0.0424313f
c115 35 0 0.0190693f
c116 31 0 0.0189362f
c117 29 0 0.0737902f
c118 27 0 0.0213851f
c119 26 0 0.0928979f
c120 25 0 0.0264813f
c121 24 0 0.0956976f
c122 23 0 0.0953194f
c123 21 0 0.0454639f
c124 18 0 0.0347957f
c125 16 0 0.0781012f
c126 15 0 0.0551045f
c127 13 0 0.088351f
c128 9 0 0.51681f
c129 8 0 0.208372f
c130 5 0 0.190854f
c131 2 0 0.0710984f
r132 48 54 0.0188889
r133 39 41 0.155833
r134 35 37 0.0141667
r135 35 36 7
r136 32 49 46.3599
r137 31 32 7
r138 28 29 0.332917
r139 26 29 0.0474919
r140 26 27 0.0920833
r141 24 28 0.0474919
r142 24 25 0.14875
r143 23 54 0.0216719
r144 22 27 0.0474919
r145 22 23 0.205417
r146 21 25 0.0474919
r147 21 46 0.0920833
r148 19 39 0.00499195
r149 18 48 0.0566888
r150 18 19 0.184167
r151 17 37 0.0216719
r152 16 41 0.00499195
r153 16 17 0.354167
r154 15 35 0.0519666
r155 14 31 0.0519666
r156 14 15 0.425
r157 12 13 21.4286
r158 9 36 46.7062
r159 9 11 41.6667
r160 8 49 3.83547
r161 8 13 75
r162 5 12 37.5
r163 2 46 0.0519666
.ends

.subckt PM_MU4IX1%NQ 2 8 10
c11 10 0 0.146358f
c12 2 0 0.842967f
r13 10 13 0.053125
r14 3 13 0.00771251
r15 3 8 0.491111
r16 2 8 0.401389
.ends

.subckt PM_MU4IX1%IN1 2 5 9 13 16 20
c24 20 0 0.287319f
c25 16 0 0.0778876f
c26 13 0 0.229906f
c27 9 0 0.378625f
c28 5 0 0.179141f
c29 2 0 0.718034f
r30 20 24 16.8505
r31 20 22 19.9142
r32 19 20 7
r33 16 19 0.113333
r34 11 13 45.8333
r35 7 24 5.20398
r36 7 9 97.9167
r37 3 13 1.46822
r38 3 5 37.5
r39 2 22 5.20398
r40 1 11 1.46822
r41 1 2 222.917
.ends

.subckt PM_MU4IX1%IN0 1 3 7 10 12 17 18
c47 18 0 0.156352f
c48 17 0 0.0175053f
c49 12 0 0.0464109f
c50 10 0 0.0438249f
c51 7 0 0.355515f
c52 3 0 0.344499f
c53 1 0 0.243711f
r54 18 23 15.2843
r55 17 20 0.0519666
r56 17 18 7
r57 14 15 7
r58 12 14 0.085
r59 10 12 0.0519666
r60 10 20 0.332917
r61 7 23 100
r62 1 15 27.1414
r63 1 3 91.6667
.ends

.subckt PM_MU4IX1%S0 2 3 4 7 10 11 13 20 24 26 30 33 34 36 39 41 44 46 47 50 53
+ 55 59 61 65 66 70 71 76 79 81 84 86 93
c175 93 0 0.136076f
c176 86 0 0.117262f
c177 84 0 0.221438f
c178 81 0 0.0206795f
c179 79 0 0.0164663f
c180 76 0 0.0299547f
c181 71 0 0.158961f
c182 70 0 0.02904f
c183 66 0 0.157635f
c184 65 0 0.0319847f
c185 61 0 0.0393164f
c186 55 0 0.0534961f
c187 53 0 0.0757569f
c188 50 0 0.153482f
c189 47 0 0.097482f
c190 46 0 0.271769f
c191 44 0 0.113416f
c192 41 0 0.0439241f
c193 39 0 0.210455f
c194 34 0 0.204035f
c195 33 0 0.260453f
c196 30 0 0.227283f
c197 26 0 0.403658f
c198 24 0 0.246779f
c199 20 0 0.573282f
c200 11 0 0.204055f
c201 10 0 0.302209f
c202 7 0 0.337016f
c203 4 0 0.0678494f
c204 3 0 0.261493f
c205 2 0 0.252071f
r206 85 86 13.8954
r207 80 96 15.2843
r208 80 93 4.16667
r209 79 81 0.0519666
r210 79 80 7
r211 74 76 0.0566667
r212 71 91 15.2843
r213 70 73 0.0519666
r214 70 71 7
r215 66 88 15.2843
r216 65 68 0.0661332
r217 65 66 7
r218 62 85 1.38889
r219 62 84 15.2843
r220 61 63 0.013695
r221 61 62 7
r222 59 61 0.0639098
r223 56 76 0.00499195
r224 56 81 0.085
r225 55 74 0.00499195
r226 55 73 0.2975
r227 53 63 0.0230476
r228 53 68 0.44625
r229 48 50 29.1667
r230 47 84 75
r231 46 47 16.6389
r232 42 44 16.6667
r233 37 39 45.8333
r234 34 50 1.46822
r235 34 36 41.6667
r236 33 48 1.46822
r237 33 96 91.6667
r238 30 91 50
r239 26 93 6.3741
r240 26 86 150
r241 24 88 50
r242 18 85 6.3741
r243 18 20 158.333
r244 15 41 10.5861
r245 15 46 95.8333
r246 11 44 1.46822
r247 11 13 41.6667
r248 10 42 1.46822
r249 9 41 2.75115
r250 9 10 116.667
r251 5 39 1.46822
r252 5 7 89.5833
r253 3 41 10.5861
r254 3 4 87.5
r255 2 4 13.9682
r256 1 37 1.46822
r257 1 2 97.9167
.ends

.subckt PM_MU4IX1%IN3 3 6 9 10 11 13 14 17 22 25 28
c67 28 0 0.172726f
c68 25 0 0.219378f
c69 17 0 0.0287077f
c70 14 0 0.156081f
c71 13 0 0.0680928f
c72 11 0 0.0587333f
c73 10 0 0.0712248f
c74 9 0 0.0375069f
c75 6 0 0.26394f
r76 18 28 6.94444
r77 17 20 0.0519666
r78 17 18 7
r79 14 25 15.2843
r80 13 15 0.157624
r81 13 14 7
r82 11 15 0.0130406
r83 10 22 0.163479
r84 10 11 0.2975
r85 9 22 0.052146
r86 9 20 0.219583
r87 4 28 6.3741
r88 4 6 62.5
r89 3 25 45.8333
.ends

.subckt PM_MU4IX1%IN2 3 7 10 12 14 16 21 24 25 28
c65 28 0 0.289197f
c66 25 0 0.201919f
c67 24 0 0.0427344f
c68 21 0 0.0584923f
c69 16 0 0.0698577f
c70 12 0 0.0699518f
c71 10 0 0.0203003f
c72 7 0 0.29694f
c73 3 0 0.388971f
r74 25 30 15.2778
r75 24 27 0.0519666
r76 24 25 7
r77 19 21 0.1275
r78 17 28 42.517
r79 16 18 0.0107504
r80 16 17 7
r81 14 16 0.0143339
r82 12 21 0.00499195
r83 12 27 0.4675
r84 10 18 0.0329643
r85 9 19 0.00499195
r86 9 10 0.085
r87 5 30 6.3741
r88 5 7 62.5
r89 1 28 3.95073
r90 1 3 95.8333
.ends

.subckt PM_MU4IX1%S1 1 3 5 7 10 16 21 22 24 27 31 34 35 39 41 42 46 49 50 51 54
+ 57 60
c119 60 0 0.283881f
c120 57 0 0.235959f
c121 54 0 0.0788737f
c122 51 0 0.0242426f
c123 50 0 0.151998f
c124 49 0 0.0259106f
c125 46 0 0.146582f
c126 42 0 0.137954f
c127 41 0 0.0569886f
c128 35 0 0.0425934f
c129 34 0 0.083987f
c130 31 0 0.15691f
c131 27 0 0.225511f
c132 22 0 0.301373f
c133 21 0 0.286115f
c134 16 0 0.207399f
c135 10 0 0.335764f
c136 7 0 0.0600477f
c137 5 0 0.218844f
c138 1 0 0.221277f
r139 50 57 15.2843
r140 49 51 0.0519666
r141 49 50 7
r142 46 54 15.2843
r143 45 46 7
r144 42 61 15.2843
r145 42 60 15.2843
r146 41 42 7
r147 39 41 0.141667
r148 37 45 0.0713824
r149 37 39 0.0708333
r150 35 37 0.0539384
r151 35 51 0.162917
r152 34 60 102.083
r153 33 34 21.4286
r154 29 31 29.1667
r155 25 27 50
r156 22 24 41.6667
r157 21 22 13.9682
r158 21 61 104.167
r159 16 33 37.5
r160 12 31 1.46822
r161 12 54 25
r162 8 29 1.46822
r163 8 10 87.5
r164 7 57 87.5
r165 5 27 1.46822
r166 4 7 13.9682
r167 4 5 79.1667
r168 1 25 1.46822
r169 1 3 41.6667
.ends

