* File: MU2X1.pex.netlist
* Created: Mon Jun  5 13:05:47 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* 
.include "MU2X1.pex.netlist.pex"
.subckt MU2X1  D_VDD D_GND Q IN0 IN1 S
* 
* S	S
* IN1	IN1
* IN0	IN0
* Q	Q
* D_GND	D_GND
* D_VDD	D_VDD
M_ENM1 N_N$4_M_ENM1_d N_clk1_M_ENM1_g N$6 N_D_GND_M_ENM1_b enm L=6e-07 W=8e-07
+ AD=1.37e-12 AS=2.4e-13 PD=4.8e-06 PS=1.4e-06 NRD=2.14062 NRS=0.375
M_ENM2 N$6 N_IN0_M_ENM2_g N_D_GND_M_ENM2_s N_D_GND_M_ENM1_b enm L=6e-07 W=8e-07
+ AD=2.4e-13 AS=7.65e-13 PD=1.4e-06 PS=2.6e-06 NRD=0.375 NRS=1.19531
M_ENM4 N$21 N_IN1_M_ENM4_g N_D_GND_M_ENM2_s N_D_GND_M_ENM1_b enm L=6e-07 W=8e-07
+ AD=2.4e-13 AS=7.65e-13 PD=1.4e-06 PS=2.6e-06 NRD=0.375 NRS=1.19531
M_ENM3 N_N$4_M_ENM3_d N_S_M_ENM3_g N$21 N_D_GND_M_ENM1_b enm L=6e-07 W=8e-07
+ AD=1.37e-12 AS=2.4e-13 PD=4.8e-06 PS=1.4e-06 NRD=2.14062 NRS=0.375
M_ENM5 N_clk1_M_ENM5_d N_S_M_ENM5_g N_D_GND_M_ENM5_s N_D_GND_M_ENM1_b enm
+ L=6e-07 W=8e-07 AD=1.37e-12 AS=7.65e-13 PD=4.8e-06 PS=2.6e-06 NRD=2.14062
+ NRS=1.19531
M_ENM6 Q N_N$4_M_ENM6_g N_D_GND_M_ENM5_s N_D_GND_M_ENM1_b enm L=6e-07 W=8e-07
+ AD=1.37e-12 AS=7.65e-13 PD=4.8e-06 PS=2.6e-06 NRD=2.14062 NRS=1.19531
M_EPM1 N_N$4_M_EPM1_d N_S_M_EPM1_g N$2 N_D_VDD_M_EPM1_b epm L=6e-07 W=1.6e-06
+ AD=1.92e-12 AS=4.8e-13 PD=5.6e-06 PS=2.2e-06 NRD=0.75 NRS=0.1875
M_EPM2 N$2 N_IN0_M_EPM2_g N_D_VDD_M_EPM2_s N_D_VDD_M_EPM1_b epm L=6e-07
+ W=1.6e-06 AD=4.8e-13 AS=1.04e-12 PD=2.2e-06 PS=2.9e-06 NRD=0.1875 NRS=0.40625
M_EPM4 N$25 N_IN1_M_EPM4_g N_D_VDD_M_EPM2_s N_D_VDD_M_EPM1_b epm L=6e-07
+ W=1.6e-06 AD=4.8e-13 AS=1.04e-12 PD=2.2e-06 PS=2.9e-06 NRD=0.1875 NRS=0.40625
M_EPM3 N_N$4_M_EPM3_d N_clk1_M_EPM3_g N$25 N_D_VDD_M_EPM1_b epm L=6e-07
+ W=1.6e-06 AD=1.92e-12 AS=4.8e-13 PD=5.6e-06 PS=2.2e-06 NRD=0.75 NRS=0.1875
M_EPM5 N_clk1_M_EPM5_d N_S_M_EPM5_g N_D_VDD_M_EPM5_s N_D_VDD_M_EPM1_b epm
+ L=6e-07 W=1.6e-06 AD=1.92e-12 AS=1.04e-12 PD=5.6e-06 PS=2.9e-06 NRD=0.75
+ NRS=0.40625
M_EPM6 N_Q_M_EPM6_d N_N$4_M_EPM6_g N_D_VDD_M_EPM5_s N_D_VDD_M_EPM1_b epm L=6e-07
+ W=1.6e-06 AD=1.92e-12 AS=1.04e-12 PD=5.6e-06 PS=2.9e-06 NRD=0.75 NRS=0.40625
*
.include "MU2X1.pex.netlist.MU2X1.pxi"
*
.ends
*
*
